US08471005B2
A suspension of (4-bromomethylphenyl)boronic acid (2.00 g, 9.31 mmol), thiomorpholine 1,1-dioxide (1.50 g, 11.1 mmol), and potassium carbonate (2.60 g, 18.8 mmol) in acetone (25 mL) was stirred at 40° C. for 18 hours. The mixture was cooled to room temperature and the volatiles were evaporated. The residue was suspended in saturated aqueous ammonium chloride (100 mL). The aqueous phase was decanted from the waxy solid, rinsed with water (50 mL), and decanted again. The waxy solid was dissolved in methanol (50 mL), filtered to remove insoluble salts and evaporated to obtain 4-[(4-boronophenyl)methyl]-thiomorpholine 1,1-dioxide as a tan foam (2.48 g). The recovered material was crude by 1HNMR but was used without further purification.

reactant | (4-bromomethylphenyl)boronic acid | 9.31 mmol, 2.00 g | BrCC1=CC=C(C=C1)B(O)O | C7H8BBrO2
reactant | thiomorpholine 1,1-dioxide | 11.1 mmol, 1.50 g | N1CCS(CC1)(=O)=O | C4H9NO2S
reactant | potassium carbonate | 18.8 mmol, 2.60 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | 4-[(4-boronophenyl)methyl]-thiomorpholine 1,1-dioxide | 2.48 g | B(O)(O)C1=CC=C(C=C1)CN1CCS(CC1)(=O)=O | C11H16BNO4S
